US06989451B2
3-Hydroxy-5-(4-isopropyl-phenylamino)-isothiazole-4-carbonitrile
The title compound was prepared from 1-isothiacyanato-4-isopropyl-benzene and 2-cyanoacetamide by the procedure analogous to Method 2 for 3-Hydroxy-5-phenylamino-isothiazol-4-carbonitrile. 1H NMR (CD3OD) δ: 7.2–7.4 (m, 4H); 2.9 (q, 1H); 1.24 (d, 6H); MS (ES, m/z): 259.8, [M-H]+, 258.3 [M-H]−.

reactant | 2-cyanoacetamide | C(#N)CC(=O)N | C3H4N2O
reactant | 3-Hydroxy-5-phenylamino-isothiazol-4-carbonitrile | OC1=NSC(=C1C#N)NC1=CC=CC=C1 | C10H7N3OS
product | 3-Hydroxy-5-(4-isopropyl-phenylamino)-isothiazole-4-carbonitrile | OC1=NSC(=C1C#N)NC1=CC=C(C=C1)C(C)C | C13H13N3OS
